US06277871B1
5-n-butyl-2-phenyl-1,3-dioxolane
A solution of benzaldehyde (5.1 mL, 50.0 mmol), 1,2-hexanediol (6.5 g, 55.0 mmol), and camphorsulfonic acid (0.58 g, 2.5 mmol) in 50 mL of toluene was heated to reflux (Dean-Stark) with azeotropic removal of water. When the theoretical amount of water was distilled (4.5 hours), the mixture was cooled to room temperature and diluted with 80 mL of ether. The solution was extracted with 2M aqueous sodium carbonate, water and brine, dried (Na2SO4), filtered, and concentrated to provide 10.54 g (102%) of the title compound.

reactant | benzaldehyde | 50.0 mmol, 5.1 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | 1,2-hexanediol | 55.0 mmol, 6.5 g | C(C(CCCC)O)O | C6H14O2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
catalyst | camphorsulfonic acid | 2.5 mmol, 0.58 g | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
product | 5-n-butyl-2-phenyl-1,3-dioxolane | 10.54 g, 102% | C(CCC)C1COC(O1)C1=CC=CC=C1 | C13H18O2
